US08536165B2
C. Ethyl 2-amino-5-(trifluoromethyl)benzoate
A mixture of 2-(tert-butoxycarbonylamino)-5-(trifluoromethyl)benzoic acid (7.21 mmol, 2.2 g), H2SO4 (36 mmol, 1.92 ml) in ethanol (25 ml) was stirred at 100° C. for 16 hours. The solvent was evaporated, water was added, pH was taken to 6 and extracted with CHCl3. The crude mixture was purified by chromatography over SiO2 eluting with DCM/MeOH mixtures and affording 0.69 g (yield 41%) of the expected product.

reactant | 2-(tert-butoxycarbonylamino)-5-(trifluoromethyl)benzoic acid | 7.21 mmol, 2.2 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C13H14F3NO4
reactant | H2SO4 | 36 mmol, 1.92 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 25 ml | C(C)O | C2H6O
product | Ethyl 2-amino-5-(trifluoromethyl)benzoate | 0.69 g, yield 41% | NC1=C(C(=O)OCC)C=C(C=C1)C(F)(F)F | C10H10F3NO2
